Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:1]>>[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-3.6877126954800006
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:7][O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10],-3.94932180926
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7].[O:8][H:9],5.73727544962
[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9],-8.17619359539
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][H:7]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-0.966070926909
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],5.184117326530001
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5][H:6],6.35174802045
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][H:8],7.57992520455
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])[C:6](=[O:7])[C:9]([H:10])([H:11])[H:12].[H:8],3.66678944367
[C:4]([H:5])([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.5198010339119999
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],0.847426400001
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.21109282298
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]1([C:7]([H:8])[H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:11]([O:10])([H:12])[H:13],0.010539362079700002
[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12],-2.7730171357700004
[C:2]#[C:3][O:4][C:5]#[C:6][H:7].[O:1]>>[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7],-6.95583822173
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-2.1452188143
[H:8].[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[H:8],-3.98832599627
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2]([C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.61773404671
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:2](\[O:3][H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1],6.79215632868
[H:5].[O:1]=[C:2]([H:3])[C:4]([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.53271854007
[H:1].[O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.06722001568
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12],3.98460520032
[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([H:3])[H:4].[C:5](=[O:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],0.8435616642399999
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:9](\[H:10])[O:11][H:12].[H:8],1.6629680322799998
[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][H:11].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][H:11],-5.431543078740001
[H:11].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9][H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.297588837869999
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:6][H:7].[H:1][C:2]=[C:3]([H:4])[C:5][O:8][C:9]([H:10])([H:11])[H:12],7.05993618605
[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.21840616097
[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-5.31534712034
